US05362733
4-[(3,4-Dihydroxy-5-nitrophenyl)methylidene]-2 -thioxoimidazolidin-5-one
A solution containing 2.9 g (0.025 mol) of 2-thiohydantoin, 4.6 g (0.025 mol) of 3,4-dihydroxy-5-nitrobenzaldehyde and 0.25 ml of piperidine in 50 ml of acetic acid was heated for 7-8 h at 100° C. The crystalls were filtered and washed with 2-propanol. Yield 5.0 g (71%), mp>350° C. (decom.).

reactant | 2-thiohydantoin | 0.025 mol, 2.9 g | N1C(=S)NC(=O)C1 | C3H4N2OS
reactant | 3,4-dihydroxy-5-nitrobenzaldehyde | 0.025 mol, 4.6 g | OC=1C=C(C=O)C=C(C1O)[N+](=O)[O-] | C7H5NO5
reactant | piperidine | 0.25 ml | N1CCCCC1 | C5H11N
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 4-[(3,4-Dihydroxy-5-nitrophenyl)methylidene]-2 -thioxoimidazolidin-5-one | OC=1C=C(C=C(C1O)[N+](=O)[O-])C=C1NC(NC1=O)=S | C10H7N3O5S
